US06982274B2
5-Bromo-6-fluoro-3-naphthalen-2-yl-1H-indazole
A total of 7.0 g of (5-bromo-2,4-difluorophenyl)naphthalene-2-yl-methanone obtained in Production Example II-17-a was allowed to react with hydrazine monohydrate by the procedure of Production Example II-10-c and thereby yielded 1.5 g of the title compound as a colorless powder.

reactant | (5-bromo-2,4-difluorophenyl)naphthalene-2-yl-methanone | 7.0 g | BrC=1C(=CC(=C(C1)C(=O)C1=CC2=CC=CC=C2C=C1)F)F | C17H9BrF2O
reactant | hydrazine monohydrate | O.NN
product | 5-Bromo-6-fluoro-3-naphthalen-2-yl-1H-indazole | 1.5 g | BrC=1C=C2C(=NNC2=CC1F)C1=CC2=CC=CC=C2C=C1 | C17H10BrFN2
